US04383949
765 g (3.5 moles) of 3-bromo-4-fluoro-benzoic acid amide was added, at 25° C., to 1,150 g (9.7 moles) of thionyl chloride and the mixture was heated under reflux at 85° to 90° C., while stirring, until virtually no further evolution of gas took place. The excess thionyl chloride was then distilled off and the residue was fractionated in a short column. 630 g (91% of theory) of 3-bromo-4-fluoro-benzonitrile with a boiling point of 115°-116° C./20 mm Hg were obtained.

reactant | 3-bromo-4-fluoro-benzoic acid amide | 3.5 moles, 765 g | BrC=1C=C(C(=O)N)C=CC1F | C7H5BrFNO
reactant | thionyl chloride | 9.7 moles, 1,150 g | S(=O)(Cl)Cl | Cl2OS
product | 3-bromo-4-fluoro-benzonitrile | 630 g, 91% | BrC=1C=C(C#N)C=CC1F | C7H3BrFN
